US06420426B1
Under a dry atmosphere of nitrogen, a solution of 4-fluoro-2-methoxy-5-methyl-benzoic acid (1.19 g, 6.47 mmol) in dichloromethane (16 mL, 0.5 M) was treated with oxalyl chloride (1.7 mL, 19.4 mmol) and a drop of DMF at 0° C. The mixture was allowed to gradually warm to room temperature and was then concentrated to afford a yellow powder. The powder was dissolved in dichloromethane (16 mL, 0.5 M). To the stirring solution at 0° C. was added diisopropylethylamine (2.8 mL, 16.2 mmol) followed by 4-bromo-2-fluorobenzylamine hydrochloride salt (2.34 g, 9.71 mmol). Stirring under nitrogen, the mixture was gradually allowed to warm to room temperature. After 21 hours, the reaction was washed successively with 1N HCl (3×50 mL) and saturated aq NaCl (50 mL). The organic layer was dried over Na2SO4, filtered, and concentrated to afford N-(4-bromo-2-fluoro-benzyl)-4-fluoro-2-methoxy-5-methyl-benzamide (2.33 g, 97%) as a brown oil which was used without further purification: Rf 0.40 (30% ethyl acetate in heptane); 1H NMR (CDCl3, 300 MHz)δ 8.17 (bd s, 1H), 8.06 (d, J=9.3 Hz, 1H), 7.33-7.22 (m, 3H), 6.65 (d, J=11.1 Hz, 1H), 4.63 (d, J=6.3 Hz, 2H), 3.92 (s, 3H), 2.23 (bd d, J=1.8 Hz, 3H).

reactant | 4-fluoro-2-methoxy-5-methyl-benzoic acid | 6.47 mmol, 1.19 g | FC1=CC(=C(C(=O)O)C=C1C)OC | C9H9FO3
reactant | oxalyl chloride | 19.4 mmol, 1.7 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | diisopropylethylamine | 16.2 mmol, 2.8 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-bromo-2-fluorobenzylamine hydrochloride salt | 9.71 mmol, 2.34 g | Cl.BrC1=CC(=C(CN)C=C1)F
solvent | dichloromethane | 0.5 M, 16 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 0.5 M, 16 mL | ClCCl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(4-bromo-2-fluoro-benzyl)-4-fluoro-2-methoxy-5-methyl-benzamide | 2.33 g, 97% | BrC1=CC(=C(CNC(C2=C(C=C(C(=C2)C)F)OC)=O)C=C1)F | C16H14BrF2NO2
